US03968218
Preparation of (3-benzylthio-2-hydroxy propyl) diethylamine hydrochloride.
6.20 g of benzylmercaptan and 2g of NaOH are stirred together in 25 cc of water, under a nitrogen atmosphere, for 5 minutes at which time there is added thereto a solution of 8.28 g of 1,1-diethyl-3-hydroxy azetidinium chloride in 25 cc of ethyl alcohol. The resulting mixture is heated for 1 hour at 75°C. After evaporating to dryness the product thus obtained is taken up in ether. The resulting etherified solution is then dried on sodium sulfate and neutralized by bubbling gaseous HCl therethrough. The precipitate which forms is filtered and recrystallized in a mixture of ethyl acetate and ethanol, yielding 12.25g of white crystals melting at 104°C

reactant | benzylmercaptan | 6.20 g | C(C1=CC=CC=C1)S | C7H8S
reactant | NaOH | [OH-].[Na+]
reactant | 1,1-diethyl-3-hydroxy azetidinium chloride | 8.28 g | [Cl-].C(C)[N+]1(CC(C1)O)CC
solvent | water | 25 cc | O | H2O
solvent | ethyl alcohol | 25 cc | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | (3-benzylthio-2-hydroxy propyl) diethylamine hydrochloride | 12.25g | Cl.C(C1=CC=CC=C1)SCC(CN(CC)CC)O | InChI=1S/C14H23NOS.ClH/c1-3-15(4-2)10-14(16)12-17-11-13-8-6-5-7-9-13;/h5-9,14,16H,3-4,10-12H2,1-2H3;1H
